US04141897
CYCLOPROPANECARBOXYLIC ACID ANHYDRIDE
This was prepared from cyclopropanecarboxylic acid (Aldrich) and cyclopropanecarboxylic acid chloride (Aldrich) by the method given (Example IV) for the preparation of the cyclobutyl analogue and purified by vacuum distillation; bp 95°-100° C. at 6 torr (lit.: Castro and Dormoy, Bull. Soc. Chem. Fr. 8, 3034 (1971) bp 102°-104° C. at 8 torr); IR anhydride C=O stretch absorptions at 5.53 and 5.74μ.

reactant | cyclopropanecarboxylic acid | C1(CC1)C(=O)O | C4H6O2
reactant | cyclopropanecarboxylic acid chloride | C1(CC1)C(=O)Cl | C4H5ClO
product | CYCLOPROPANECARBOXYLIC ACID ANHYDRIDE | C1(CC1)C(=O)OC(=O)C1CC1 | C8H10O3
